US05639735
Hayumicins C1, C2 and D were isolated as a purple amorphous powder. The compounds are soluble in dimethylsulfoxide and pyridine, slightly soluble in chloroform and methanol and practically insoluble in n-hexane, ether and water. They give a positive response to anthrone reagent, but are negative to Sakaguchi test. The molecular formulae of Hayumicins C1, C2 and D were determined to be C33H33NO13, C33H33NO13 and C32H31NO13, respectively, based on the high-resolution FAB-MS spectral results. The physico-chemical data of Hayumicin C1 are summarized in Table 6; the physico-chemical data of Hayumicin C2 are summarized in Table 7; and the physico-chemical data of Hayumicin D are summarized in Table 8. The UV and IR spectra of Hayumicins C1, C2 and D are similar to each other. The IR, 1H NMR and 13C NMR spectra of Hayumicin C1 are shown in FIGS. 7, 8 and 9, respectively. The IR spectra of Hayumicins C2 and D are shown in FIGS. 10 and 11, respectively. The 1H NMR spectra of Hayumicins C2 and D are shown in FIGS. 12 and 13, respectively. The structures of Hayumicins C1, C2 and D were elucidated on the basis of comparison studies of their 1H and 13C NMR spectra with those of Hayumicin B. They were found to be des-methyl congeners of Hayumicin B with one methyl missing in Hayumicins C1 and C2 and two methyls missing in Hayumicin D on their sugar moieties.

reactant | methanol | CO | CH4O
reactant | ether | CCOCC | C4H10O
reactant | water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | anthrone | C1=CC=CC=2CC3=CC=CC=C3C(C12)=O | C14H10O
